US06943159B1
2-Aminobenzenesulfonamide (17.2 g; 100 mmol) was refluxed in AcOH for 5 days. The precipitate formed was isolated by filtration and washed with water to give 17.8 g (91%) of 3-methyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide. 3-Methyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide was transformed by Method A (using dimethylamine as amine). M.p. 260-261° C.

reactant | 2-Aminobenzenesulfonamide | 100 mmol, 17.2 g | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | AcOH | CC(=O)O | C2H4O2
product | 3-methyl-1,2-dihydro-1,2,4-benzothiadiazine-1,1-dioxide | 17.8 g, 91% | CC=1NS(C2=C(N1)C=CC=C2)(=O)=O | C8H8N2O2S
